Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Thoracentesis ___

 
History of Present Illness:
Mr. ___ is a ___ with history of ESRD on HD since ___, Afib 
on Coumadin, HTN, and CHF who is admitted for shortness of 
breath.  His heart failure has been under generally adequate 
control aided by volume regulation via HD per his cardiologist 
and PCP.  He is in chronic AF, currently with good rate control 
with propranolol with lack of efficacy of metoprolol. He has had 
several recent hospitalizations, primarily for hypotension 
and/or tachycardia and has shown an overall trend to be 
increasingly tenuous and intolerant of fluctuations in volume.  
His biggest problems recently have been persistent hypoxemia for 
which home oxygen was started last week, and, over the last few 
days, somnolence and decreased oral intake. He is unable to 
provide much history currently.

Hypoxemia has been dealt with by arranging for home oxygen, and 
he has been arranged for a ___ lift due to decreasing mobility
 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF.  
- Afib, on Coumadin  
- HTN  
- CHF (outpatient TTE ___ with LVEF ___ and subsequent  
recovery with EF 48% on office study ___  
- Gout  
- PVD  
- Hypothyrodism  
- Cricopharyngeal dysphagia ___ neck fracture  
- Sleep apnea not on home CPAP  
- Anemia of chronic disease ___ renal dysfunction  
- NIDDM, resolved with weight loss, A1C<5% in ___  
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 

 
Social History:
___
Family History:
Significant for HTN  
 
Physical Exam:
Admission Exam
================
98.2 97.9 100-120/50-66 ___ 20 94%2L
GENERAL: Obtunded. Slow to respond verbally, in NAD, 
HEENT: AT/NC, PERRLA, anicteric sclera. MMM
NECK: No appreciated JVD
CARDIAC: Irregularly irregular, S1/S2, ___ SEM at lower sternal 
border
LUNG: Shallow, no accessory muscle use, no increased work of 
breathing. markedly diminished breath sounds on right through 
entire lung, left lung clear except for crackles on left
ABDOMEN: Overweight. Nondistended, +BS, nontender, no 
rebound/guarding
EXTREMITIES: moving all extremities when stimulated. Trace 
edema. Right
foot felt cooler to touch than the left foot.
PULSES: 1+ DPs bilaterally
NEURO: CN2-12 intact, moving all extremities

Discharge Exam
===============
Vitals- 98.4 98.1 ___ 98%RA
GENERAL: Slow to respond verbally, in NAD, AAOx3
HEENT: AT/NC, PERRLA, anicteric sclera. MMM
NECK: No appreciated JVD
CARDIAC: Irregularly irregular, S1/S2, ___ SEM at lower sternal 
border
LUNG: no accessory muscle use, no increased work of breathing. 
diminished breath sounds on right through entire lung, left lung 
clear except for crackles at the base
ABDOMEN: Overweight. Nondistended, +BS, nontender, no 
rebound/guarding
EXTREMITIES: moving all extremities well. Trace edema. Right
foot felt cooler to touch than the left foot.
PULSES: 1+ DPs bilaterally
NEURO: CN2-12 intact, moving all extremities
 
Pertinent Results:
Admission Labs
==============
___ 03:22PM BLOOD WBC-6.1 RBC-2.74* Hgb-8.8* Hct-29.0* 
MCV-106* MCH-32.0 MCHC-30.2* RDW-13.9 Plt ___
___ 03:22PM BLOOD Neuts-65.1 Lymphs-16.1* Monos-13.3* 
Eos-4.6* Baso-0.8
___ 03:22PM BLOOD ___ PTT-42.2* ___
___ 03:22PM BLOOD Glucose-91 UreaN-30* Creat-4.6*# Na-137 
K-4.7 Cl-100 HCO3-28 AnGap-14
___ 03:22PM BLOOD Calcium-9.8 Phos-2.8# Mg-2.1
___ 11:44PM BLOOD Lactate-1.2

Blood Gases
============
___ 11:44PM BLOOD Type-ART pO2-19* pCO2-69* pH-7.30* 
calTCO2-35* Base XS-3
___ 01:47AM BLOOD Type-ART pO2-55* pCO2-47* pH-7.42 
calTCO2-32* Base XS-4
___ 10:46AM BLOOD Type-ART pO2-89 pCO2-50* pH-7.39 
calTCO2-31* Base XS-3 Intubat-NOT INTUBA

Discharge Labs
===============
___ 06:22AM BLOOD WBC-5.0 RBC-2.83* Hgb-9.4* Hct-29.1* 
MCV-103* MCH-33.2* MCHC-32.3 RDW-13.7 Plt ___
___ 08:00AM BLOOD ___ PTT-38.5* ___
___ 06:22AM BLOOD Glucose-92 UreaN-42* Creat-5.9* Na-139 
K-4.7 Cl-101 HCO3-30 AnGap-13
___ 06:22AM BLOOD Calcium-10.3 Phos-2.5* Mg-2.2

Urinalysis
=============
___ 07:02PM URINE Color-Straw Appear-Hazy Sp ___
___ 07:02PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG

Pleural Fluid
=============
___ 11:28AM PLEURAL WBC-375* RBC-450* Polys-0 Lymphs-88* 
Monos-12*
___ 11:28AM PLEURAL TotProt-4.1 Glucose-91 LD(LDH)-91 
Albumin-2.2 ___ Misc-BNP=___ 

Microbiology
============
___ 11:28 am PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

Imaging
=========
Chest Xray ___
IMPRESSION:
Large right-sided pleural effusion with adjacent atelectasis.  
Left basilar
opacity likely represents atelectasis, although infection is not 
excluded. 
Mild increase in vascular congestion.
 
L Hip Xray ___
IMPRESSION:  Osteopenia without visualized fracture.

Chest XRay ___
FINDINGS:  Following right thoracentesis, a right pleural 
effusion has
substantially decreased in size with residual moderate pleural 
effusion
remaining, and no visible pneumothorax.  Associated improved 
aeration of the right lung with residual partial right middle 
and lower lobe atelectasis. 
Additionally, pulmonary vascular congestion has improved, and a 
small left
pleural effusion has decreased in size.
 
Brief Hospital Course:
___ y/o man with PMHx ESRD on HD, Atrial Fibrillation on 
coumadin, sCHF (LVEF 35%) and PVD presenting with obtundation 
occurring after initiation of home oxygen and concerning for 
hypoventilation and hypercarbia.

# Shortness of breath: Patient has been noted in OMR notes to 
have recently increased oxygen requirement. There are multiple 
etiologies. He has both systolic heart failure and renal 
failuire which caused volume overload and lead to his pleural 
effusions.  Patient unlikely to have superimposed pneumonia 
given his lack of systemic symptoms. But he is at risk for 
aspiration. He has been evaluated by speech and swallow with 
video swallow from ___ recommending have ground solids. 
There were no noted aspiration events by the patient. His first 
night he did become hypoxic, hypercarbic and lethargic and so he 
was started on BIPAP with improvement in his blood gas and 
importantly his mental status returned to baseline. He underwent 
thoracentesis which drained 1300cc transudative fluid consistent 
with known heart and kidney failure. He was continued on BiPAP 
but intermittently refused it likely because his respiratory 
status had greatly improved. He was discharged with home O2, 
physical therapy, and plan for close follow up with Dr. ___. 
He also received a new script for a NIPPV device.

# ESRD (multifactorial ___ HTN and obstructive nephropathy). He 
has been on dialysis since ___. He has a LUE AVF that was noted 
to have minor ulcers. Transplant surgery evaluated his ulcer and 
determine that they needed to be bandage and that the fistula 
could be accessed around the ulcers. He had no interruptions in 
his dialysis and no further intervention was needed. 

# Afib, on Coumadin - Patient has been anticoagulated for afib 
with CHAADS2 score of four. Per outpatient OMR notes, he is 
difficult to rate control, but has achieved good rate control 
with propanolol instead of metoprolol. Discussion with Dr. ___ 
___ him being on propanolol every six hours in the 
hospital. He was continued on this dose and monitored on tele 
and had good rate control in the hospital.

# Systolic CHF - He had known impaired systolic function with EF 
~40% from previous echo, and he had pitting edema, this was 
likely the etiology of his pleural effusions. The patient had 
shown signs of decompensation at home with new oxygen 
requirements. Patient has continued on his home lasix dose. Dry 
weight is according to patient 230lbs. He underwent dialysis in 
house and was continued on his lasix on nondialysis days.

# HTN - Patient was normotensive to slightly low blood 
pressures, but he remained asymptomatic and he was continue on 
his betablocker and lasix.
# Gout - He was continued on his home allopurinol
# Hypothyrodism - Patient appeare euthyroid and was continued on 
home synthroid

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Propranolol LA 80 mg PO DAILY 
8. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
9. Sucralfate 1 gm PO TID 
10. Warfarin 1 mg PO DAILY16 
11. Cinacalcet 0 mg PO PER HOME REGIMEN 
12. Clotrimazole Cream 1 Appl TP BID 
13. DiphenhydrAMINE 25 mg PO HS:PRN UNKNOWN 
14. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. Propranolol 20 mg PO QID:PRN rapid heart rate 
18. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q48H 

 
Discharge Medications:
1. Medical Device
Trilogy CPAP Device : full range for diagnosis chronic 
respiratory failure and hypercapnia. 

Patient did not tolerate BiPAP
2. Allopurinol 50 mg PO EVERY OTHER DAY 
3. Clotrimazole Cream 1 Appl TP BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO DAILY ON NON-DIALYSIS DAYS 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Sucralfate 1 gm PO TID 
12. Warfarin 1 mg PO DAILY16 
13. Sarna Lotion 1 Appl TP DAILY:PRN itchiness 
14. Cinacalcet 0 mg PO PER HOME REGIMEN 
15. Propranolol LA 80 mg PO DAILY 
16. Propranolol 20 mg PO QID:PRN rapid heart rate 
17. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
18. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
19. Neomycin-Polymyxin B GU 20 mL ___ Q48H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
-Transudative pleural effusion secondary to heart failure
-Hypoventilation and hypercarbia, with obtundation

Secondary Diagnoses:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF.  
- Afib, on Coumadin  
- HTN  
- CHF (outpatient TTE ___ with LVEF ___ and subsequent  
recovery with EF 48% on office study ___  
- Gout  
- PVD  
- Hypothyrodism  
- Cricopharyngeal dysphagia ___ neck fracture  
- Sleep apnea not on home CPAP  
- Anemia of chronic disease ___ renal dysfunction  
- NIDDM, resolved with weight loss, A1C<5% in ___  
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 


 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

It was our pleasure caring for you at ___ 
___. You were admitted for shortness of breath. The 
fluid around your lung, which is not new, was slightly larger 
than previously. You had some difficulty breathing so you were 
started on a breathing machine at night, with good results in 
your breathing but had difficutly tolerating this over time and 
so will try another type of machine at home. You had your 
pleural effusion drained and your breathing improved. 

You were recommended to go to rehab by physical therapy but you 
declined and arrangements were made to make your home care 
safer. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

We wish you all the best. 
 
Followup Instructions:
___